US04873251
2-(4-Fluorophenyl)-N,N-dipropyl-3H-imidazo[4,5-b]pyridine-3-acetamide
A mixture of 2-(4-fluorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (5.0 g, 0.01845 mole) and 1,1'-carbonyldiimidazole (2.99 g, 0.01845 mole) was stirred at room temperature in dry tetrahydrofuran (100 ml) for three hours with a stream of nitrogen bubbling through it. A solution of dipropylamine (5.6 g, 0.0554 mole) in tetrahydrofuran (7 ml) was added and the reaction mixture was refluxed overnight under nitrogen. The solvents were removed under reduced pressure and the residue was triturated in 100 ml of water, the solid was collected by filtration, rinsed twice with water, twice with a 5% potassium hydroxide solution and twice again with water. The solid was dissolved in hot isopropyl alcohol, filtered hot, cooled to room temperature, and water was added to the cloud point. The resulting solid was collected by filtration, rinsed with water, and dried under high vacuum at 42° C. overnight to give 2.22 g (34%) of title compound, mp. 135°-136° C.

reactant | 2-(4-fluorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.01845 mole, 5.0 g | FC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10FN3O2
reactant | 1,1'-carbonyldiimidazole | 0.01845 mole, 2.99 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | dipropylamine | 0.0554 mole, 5.6 g | C(CC)NCCC | C6H15N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | 2-(4-Fluorophenyl)-N,N-dipropyl-3H-imidazo[4,5-b]pyridine-3-acetamide | 2.22 g, 34% | FC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)N(CCC)CCC | C20H23FN4O
